US05256682
c) 4-(5-Methoxymethyl-isoxazol-3-yl)-5-methyl-1-(3-phenoxyphenyl)-imidazole
660 mg of 5-methyl-1-(3-phenoxyphenyl)-imidazole-4-carbaldehydoxime, hydrochloride is dissolved in 4 ml of dimethylformamide. At 0° C., 0.28 ml of triethylamine is added and a solution of 360 mg of N-bromosuccinimide in 2 ml of dimethylformamide is instilled within one hour. Then, 1.7 ml of methyl propargyl ether and 0.28 ml of triethylamine are added, and the mixture is stirred for 14 hours at room temperature. 360 mg of N-bromosuccinimide in 2 ml of dimethylformamide and 0.28 ml of triethylamine are again added and the mixture is stirred for 18 hours at room temperature. After the concentration by evaporation, it is mixed with water and extracted with ethyl acetate. The extract that has been concentrated by evaporation is mixed with diethyl ether and filtered. The filtrate is purified by column chromatography. 230 mg (32% of theory) of the title compound is obtained as oil.

reactant | 5-methyl-1-(3-phenoxyphenyl)-imidazole-4-carbaldehydoxime | 660 mg | CC1=C(N=CN1C1=CC(=CC=C1)OC1=CC=CC=C1)C=NO | C17H15N3O2
reactant | hydrochloride | Cl | ClH
reactant | N-bromosuccinimide | 360 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | methyl propargyl ether | 1.7 ml | C(C#C)OC | C4H6O
reactant | N-bromosuccinimide | 360 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | triethylamine | 0.28 ml | C(C)N(CC)CC | C6H15N
solvent | triethylamine | 0.28 ml | C(C)N(CC)CC | C6H15N
solvent | triethylamine | 0.28 ml | C(C)N(CC)CC | C6H15N
product | 4-(5-Methoxymethyl-isoxazol-3-yl)-5-methyl-1-(3-phenoxyphenyl)-imidazole | COCC1=CC(=NO1)C=1N=CN(C1C)C1=CC(=CC=C1)OC1=CC=CC=C1 | C21H19N3O3
